US04389409
B. 1-(α-Hydroxy-2,4-dichlorophenethyl)imidazole
A 150 ml solution of methanol containing 15.6 g (0.061 mole) of 1-(2,4-dichlorophenacyl) imidazole cooled to 0°-5° C. was treated with 1.38 g (0.037 mole) of sodium borohydride in portions. The reaction was stirred 1/2 hour and the methanol removed at reflux while adding 100 ml of H2O. The refluxing aqueous mixture was treated with 16 ml of conc. HCl, cooled, and treated with 50 ml of conc. NH4OH. The mixture was extracted with methylene chloride, dried over MgSO4, and concentrated to give 11.3 g of a white solid product (66.8%), m.p. 139°-141° C. (from ethanol).

reactant | methanol | 0.061 mole, 15.6 g | CO | CH4O
reactant | 1-(2,4-dichlorophenacyl) imidazole | ClC1=C(C(CN2C=NC=C2)=O)C=CC(=C1)Cl | C11H8Cl2N2O
reactant | sodium borohydride | 0.037 mole, 1.38 g | [BH4-].[Na+]
product | 1-(α-Hydroxy-2,4-dichlorophenethyl)imidazole | 11.3 g | OC(CC1=C(C=C(C=C1)Cl)Cl)N1C=NC=C1 | C11H10Cl2N2O
